US06358945B1
5-Amino-2-methoxypyridine (5.0 g, 40 mmol) was dissolved in 6 N HCl (10 mL), cooled to 0° C., and vigorously stirred throughout the procedure. Sodium nitrite (2.8 g, 41 mmol) was dissolved in water (10 mL) and this solution was added to the reaction solution. After 30 min, tin (II) chloride dihydrate (52 g, 230 mmol) in 6 N HCl (20 mL) was added, and the reaction slurry was stirred at 0° C. for 2.5 h. The pH was adjusted to 13 with 40% aqueous potassium hydroxide solution. Ethyl ether was added and the mixture was extracted with EtOAc (4×70 mL). dried (MgSO4) and concentrated to give 5-hydrazino-2-methoxypyridine as an orange solid (5.1 g).

reactant | 5-Amino-2-methoxypyridine | 40 mmol, 5.0 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | Sodium nitrite | 41 mmol, 2.8 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 230 mmol, 52 g | O.O.[Sn](Cl)Cl
reactant | potassium hydroxide | [OH-].[K+]
solvent | HCl | 6 N, 10 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | HCl | 6 N, 20 mL | Cl | ClH
solvent | Ethyl ether | C(C)OCC | C4H10O
product | 5-hydrazino-2-methoxypyridine | 5.1 g | N(N)C=1C=CC(=NC1)OC | C6H9N3O
